US05616599
43(i) Diethyl 2-methyl-1-(4-nitrobenzyl)imidazole-4,5-dicarboxylate
Following a procedure similar to that described in Preparation 42(i), but using 6.65 g of diethyl 2-methylimidazole-4,5-dicarboxylate and 6.35 g of p-nitrobenzyl bromide as starting materials, 8.57 g of the title compound were obtained as crystals, melting at 109° C.

reactant | diethyl 2-methylimidazole-4,5-dicarboxylate | 6.65 g | CC=1NC(=C(N1)C(=O)OCC)C(=O)OCC | C10H14N2O4
reactant | p-nitrobenzyl bromide | 6.35 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | Diethyl 2-methyl-1-(4-nitrobenzyl)imidazole-4,5-dicarboxylate | 8.57 g | CC=1N(C(=C(N1)C(=O)OCC)C(=O)OCC)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H19N3O6
